US07842696B2
TFA (1.2 mL) was added to a stirred solution of 4-(2-Methoxycarbonyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (200 mg, 0.58 mmol) in DCM (5 mL) at 0° C. The resulting mixture was stirred at the same temperature for 2 hours. DIPEA (1.5 mL) was added to the cold reaction mixture and the mixture was concentrated under reduced pressure to afford 2-(piperazine-1-carbonyl)-benzoic acid methyl ester.

reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(2-Methoxycarbonyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.58 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(=O)OC)=O | C18H24N2O5
reactant | DIPEA | 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(piperazine-1-carbonyl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)C(=O)N1CCNCC1)=O | C13H16N2O3
